US07662771B2
5-[5-(2-acetylamino-phenyl)-isoxazol-3-yl]-pentanoic acid
Add 2N HCl solution (100 mL, in water) to 5-[5-(2-acetylamino-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester (4.02 g, 12.2 mmol) and heat to reflux under N2 overnight Cool to room temperature and concentrate to afford the title compound (3.46 g, 96% yield). MS (IS) 259 (M−1)−.

reactant | 5-[5-(2-acetylamino-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 12.2 mmol, 4.02 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC=C1)NC(C)=O)=O | C18H22N2O4
solvent | HCl | 2N, 100 mL | Cl | ClH
product | 5-[5-(2-acetylamino-phenyl)-isoxazol-3-yl]-pentanoic acid | 3.46 g, 96% yield | C(C)(=O)NC1=C(C=CC=C1)C1=CC(=NO1)CCCCC(=O)O | C16H18N2O4
